US07816522B2
(21e) 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide
After adding 90 ml of a 20% aqueous solution of ammonium sulfide to a solution of 29.2 g of a crude (8-methoxy-4H-benzo[1,3]dioxin-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile in 240 ml of an ethanol:THF=2:1 mixed solvent, the mixture was stirred at room temperature for 8 hours. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure to give the title compound (28.2 g, crude product) as a light yellow solid.

reactant | ammonium sulfide | [NH4+]=S
reactant | (8-methoxy-4H-benzo[1,3]dioxin-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | 29.2 g | COC1=CC(=CC=2COCOC21)C(C#N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C20H18N4O4
reactant | THF | C1CCOC1 | C4H8O
reactant | Water | O | H2O
solvent | ethanol | 240 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide | 28.2 g | COC1=CC(=CC=2COCOC21)C(C(=S)N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C20H20N4O4S
